US07872014B2
5-{3-Chloro-4-[(phenylmethyl)oxy]phenyl}-3-(1,1-dimethylethyl)-6,9-difluoro-1-methyl-3H-pyrazolo[3,4-c]isoquinolin-8-ol (0.010 g, 0.020 mmol) was dissolved in trifluoroacetic acid (0.5 mL) and stirred at room temperature for 1.3 h, then at 50° C. for 0.2 h and finally at 60° C. for 0.5 h. The mixture was then concentrated in vacuo to afford a residue which was purified by preparative HPLC to afford 5-(3-chloro-4-hydroxyphenyl)-6,9-difluoro-1-methyl-3H-pyrazolo[3,4-c]isoquinolin-8-ol as a yellow solid (0.0047 g, 0.013 mmol, 66% yield). 1H NMR (400 MHz, CD3OD): 7.47 (t, 1H), 7.28 (dt, 1H), 6.98 (d, 1H), 6.86 (dd, 1H), 2.82 (d, 3H); MS (EI) for C17H10ClF2N3O2: 362 (MH+), 394 (MNa+), 400 (MK+).

reactant | 5-{3-Chloro-4-[(phenylmethyl)oxy]phenyl}-3-(1,1-dimethylethyl)-6,9-difluoro-1-methyl-3H-pyrazolo[3,4-c]isoquinolin-8-ol | 0.020 mmol, 0.010 g | ClC=1C=C(C=CC1OCC1=CC=CC=C1)C1=NC2=C(C=3C(=C(C=C(C13)F)O)F)C(=NN2C(C)(C)C)C | C28H24ClF2N3O2
solvent | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(3-chloro-4-hydroxyphenyl)-6,9-difluoro-1-methyl-3H-pyrazolo[3,4-c]isoquinolin-8-ol | 0.013 mmol, 0.0047 g, 66% yield | ClC=1C=C(C=CC1O)C1=NC2=C(C=3C(=C(C=C(C13)F)O)F)C(=NN2)C | C17H10ClF2N3O2
